US05569655
To a solution of 3-(N-methyl-N-methoxycarbamoyl)furan (14 g, 0.09 mol) in 150 ml of THF cooled to -78° C. was added in portions 36.1 ml (0.108 mol) of 3M methylmagnesium bromide in ether and the mixture was allowed to warm to room temperature, and then stirred for 30 min. To the above mixture was added a cold 2N HCl (100 ml) and the aqueous layer was extracted with ether (3×100 ml), the combined organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo to yield a pale-yellow oil. The above oil was chromatographed on silica (methylene chloride/hexane 2:1) to afford 6.95 g (70.2%) of 1-(3-furyl)-1-propanone as a colorless oil which crystallized as a white solid.

reactant | 3-(N-methyl-N-methoxycarbamoyl)furan | 0.09 mol, 14 g | CN(C(=O)C1=COC=C1)OC | C7H9NO3
reactant | methylmagnesium bromide | 0.108 mol, 3M, 36.1 ml | C[Mg]Br
reactant | HCl | 2N, 100 ml | Cl | ClH
reactant | THF | 150 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-(3-furyl)-1-propanone | 6.95 g, 70.2% | O1C=C(C=C1)C(CC)=O | C7H8O2
